Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Phenergan / metoclopramide
 
Attending: ___.
 
Chief Complaint:
Vaginal bleeding and fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 

Date: ___

Time: ___

_
________________________________________________________________

PCP:
___ at ___ - Dr. ___ 
(___ ___ ___.
Dr. ___ is the attending. 
_
________________________________________________________________
HPI: 
___ with PMH aplastic anemia (on cyclosporine, req. chronic 
blood/plt tx), visiting from ___ p/w vaginal bleeding x 5 
weeks. Patient has been visiting ___ since ___. Was doing 
well on regimen per patient, was cleared by her hematologist in 
___ to travel to ___. She stopped taking her OCPS on 
___ because she thought that she no longer needed 
it.  She then re-started her OCPs to avoid having any bleeding 
before she travelled. She then started having vaginal ___ 
associated with cramping whcih felt like a regular period. She 
has not had one for ___ years.  She describes the bleeding as 
heavy in that she was changing a regular tampon 3x per day.  
Then yesterday for the first time she started passing frequent 
painless blood clots.  She had dizziness when she stood too 
quickly.  She has stopped passing clots since presenting to CCH. 
She has not had a decline in energy. She was more scared of the 
bleeding and sick of it. 
A week ago she developed a sore throat which has been 
intermittent and then returned upon presentation to ___.  
Other members of her travelling party had the same symptoms. 
Last night she felt feverish and took her temperature with her 
mother's ear thermometer which read 39 degrees C.  She took 
tylenol yesterday pm in the hospital. Her mother has calibrated 
her ear thermometer with the hospital one and thinks it reads 
two degrees higher.  No cough. No n/v/d.  No dysuria. No cp/sob. 
No mouth sores. No new msk aches or pains. 

She was transfused platelets for plt of 29 and transferred to 
___ for hematology evaluation. 
Per ED documentation:
On exam, patient comfortable in NAD, cardiopulmonary exam nl, 
abdomen benign. 
Diagnosis: Neutropenic fever? Anemia, vaginal bleed

ED Course (labs, imaging, interventions, consults): 
- Initial Vitals/Trigger:0 98.2 87 123/76 18 100% RA 
[x] hematologist at ___ - Dr. ___ 
___ (___ ___ 
___. baseline as of ___ : WBC 6.3, 
Hg 10.6, Plt 46, neutrophil 3500. RECORDS FAXED - IN CHART.
[x] WBC1.7, ANC 900, H/H 7.5/22.8, platelets 71
[x] hematology consult
[x] blood cultures
[x] cefepime 2G IV for febrile neutropenia empiric coverage

Disposition/Pending: Admit to ___ for neutropenic fever

PAIN SCALE: ___ pain in her throat 
________________________________________________________________
REVIEW OF SYSTEMS: 10 or 2 with "all otherwise negative"
CONSTITUTIONAL:        [] All Normal
[? ] Fever  [ ?] Chills   [ ] Sweats  [ ] Fatigue   [ ] Malaise  
 [ ]Anorexia  [ ]Night sweats
[+] __42___ lbs.    intentional weight  loss since ___
Her baseline weight prior to her dx was 63 kg

Eyes    [X] All Normal
[ ] Blurred vision   [ ] Loss of vision [] Diplopia [ ] 
Photophobia

ENT
[ ] Dry mouth  [ ] Oral ulcers [ ] Bleeding gums [ +] Sore 
throat    [] Sinus pain [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ] Other:

RESPIRATORY:    [X] All Normal
[ ] Shortness of breath      [ ] Dyspnea on exertion [ ] Can't 
walk 2 flights     [ ] Cough [ ] Wheeze  [ ] Purulent sputum    
[ ] Hemoptysis   [ ]Pleuritic pain 
[ ] Other:
CARDIAC:        [X]  All Normal
[ ] Palpitations   [ ] Edema   [ ] PND [ ] Orthopnea    [ ] 
Chest Pain [ ] Dyspnea on exertion [ ] Other:

GI:             [X] All Normal
[ -] Nausea  [-] Vomiting   []  Abd pain  [] Abdominal swelling 
[ ] Diarrhea    [ ] Constipation  [ ] Hematemesis 
[- ] Blood in stool     [ ] Melena [ ] Dysphagia:   [ ] Solids   
 [ ] Liquids     [ ] Odynophagia  [ ] Anorexia    [ ] Reflux
[ ] Other:
GU:             [X] All Normal
[ ] Dysuria      [ ] Incontinence or retention  [ ] Frequency    
[ ] Hematuria  []Discharge []Menorrhagia  
SKIN:           [X] All Normal
[ ] Rash        [ ] Pruritus
MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain
NEURO:          [X] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [X] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Heat or cold 
intolerance [ ] loss of energy

HEME/LYMPH:    [] All Normal
[+] Easy bruising   [+] Easy bleeding    [ ] Adenopathy

PSYCH:         [X] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

ALLERGY:
phenergan -> agitation and anxious
reglan -> agitation and anxious
[ ]Medication allergies  [ ] Seasonal allergies

[X]all other systems negative except as noted above 

 
Past Medical History:
Aplastic anemia diagnosed in ___ when she presened with 
lethargy
allograt options considered but siblings not matched
Now placed on donor list for potential non related donor. Per 
patient perfect match found in ___. 
S/p ATGAM in ___ for one week c/b hives followed by 
steroids c/b weight gain and continues on the cycloporin.
Exjade for elevated ferritin ceased due to nausea and GI upset
- REgular  PRBCs and platelet transfusions- last in ___
- admitted for polymicrobial bactermia due to a PICCL infection 
___
- TBI - s/p a shotput thrown into her head at age ___ s/p 
depressed skull fracture -> SDH s/p elevation and evacuation 
with difficulties with executive function and organization
She recovered from this and continued to surf and play soccer
 
Social History:
___
Family History:
Mother MGM with HTN. Mother with GERD. Mother with 
hypothyroidism. MGM is still alive but had leukemia which 
improved with radiotherapy. her father is in good health but has 
hyperlipidemia.  Great MGM. 
 
Physical Exam:
PHYSICAL EXAM:  I3 - PE >8

PAIN SCORE: ___ - sore throat

1. VS: 98.5, 120/88 102 18 98% RA
GENERAL:  Young female sitting in bed, NAD. She appears very 
well. 
2. Eyes: [] WNL 

PERRL, EOMI without nystagmus, Conjunctiva: clear
3. ENT [] WNL
Markedly enlarged tonsils. 
[X] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ 
cm

[] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate

4. Cardiovascular [X] WNL

[] Regular  [] Tachy  [X] S1 [X] S2 [-] Systolic Murmur     /6, 
Location:

[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6, 
Location:

[X] Edema RLE  None [] Bruit(s), Location:

[X] Edema LLE None [] PMI

[] Vascular access  [X] Peripheral [] Central site:

5. Respiratory [X]

[X] CTA bilaterally  [ ] Rales  [ ] Diminshed

[] Comfortable     [ ] Rhonchi   [ ] Dullness

[ ] Percussion WNL  [ ] Wheeze   [] Egophony

6. Gastrointestinal [X] WNL
[X] Soft  [] Rebound [] No hepatomegaly  [X] Non-tender [] 
Tender [] No splenomegaly

[] Non distended  [] distended  [] bowel sounds Yes/No  [] 
guiac: positive/negative

7. Musculoskeletal-Extremities [X] WNL

[ ] Tone WNL  [ ]Upper extremity strength ___ and symmetrical  [ 
]Other:

[ ] Bulk WNL    [] Lower extremity strength ___ and symmetrica [ 
] Other:

[X] Normal gait  []No cyanosis  [ ] No clubbing  [] No joint 
swelling

8. Neurological [x] WNL

[x] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ] 
CN II-XII intact  [ ] Normal attention  [ ] FNF/HTS WNL [] 
Sensation WNL  [ ] Delirious/confused  [ ] Asterixis 
Present/Absent  [ ] Position sense WNL

[ ] Demented  [ ] No pronator drift  [] Fluent speech

9. Integument  [X] WNL

[X] Warm  [X] Dry  [] Cyanotic [] Rash: 
none/diffuse/face/trunk/back/limbs  

[ ] Cool [] Moist  [] Mottled  [] Ulcer: 
None/decubitus/sacral/heel: Right/Left

10. Psychiatric [X] WNL
[X] Appropriate [] Combative
11. Hematologic/Lymphatic  [X ]WNL
[X] No cervical ___ 

DISCHARGE:
VITALS: 99.2 114/68 88 (to 102 at 0130) 18 98%RA  
GEN: Well-developed, well-nourished, healthy-appearing female 
lying comfortably in bed in NAD.  
HEENT: AT/NC, PERRLA, EOMI. Moist mucous membranes. Posterior 
oropharyngeal and tonsillar erythema and swelling, difficult to 
fully assess for exudates due to limited view. Neck supple. 
Minimal non-tender right posterior cervical palpable lymph nodes 
1cm.  
CV: Normal rate, regular rhythm, no murmurs, rubs, or gallops.  
PULM: Lungs CTAB, no wheezes, rhonchi, or rales. No use of 
accessory muscles. No labored breathing.  
ABD: Soft, non-tender, non-distended, NABS.  
EXT: wwp, cap refill < 2 seconds.  
SKIN: scattered small ecchymoses, no petechiae appreciated.  
NEURO: AAOx3. CN II-XII grossly intact. strength ___ throughout, 
sensation intact to light touch. gait normal 

 
Pertinent Results:
ADMISSION:
___ 09:02PM URINE  HOURS-RANDOM
___ 09:02PM URINE  UCG-NEGATIVE
___ 09:02PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 09:02PM URINE  RBC-5* WBC-12* BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 09:02PM URINE  HYALINE-9*
___ 09:02PM URINE  MUCOUS-OCC
___ 08:52PM   GLUCOSE-74 UREA N-9 CREAT-0.7 SODIUM-139 
POTASSIUM-3.4 CHLORIDE-104 TOTAL CO2-23 ANION GAP-15
___ 08:52PM   WBC-1.7* RBC-1.90* HGB-7.5* HCT-22.8* 
MCV-120* MCH-39.7* MCHC-33.1 RDW-15.8*
___ 08:52PM   NEUTS-53 BANDS-0 ___ MONOS-6 EOS-0 
BASOS-0 ___ MYELOS-0
___ 08:52PM   HYPOCHROM-2+ ANISOCYT-2+ POIKILOCY-OCCASIONAL 
MACROCYT-2+ MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-OCCASIONAL 
MACROOVAL-OCCASIONAL
___ 08:52PM   PLT SMR-VERY LOW PLT COUNT-71*
___ 08:50PM   ___ PTT-19.8* ___
baseline PLt = 36 K
persistently elevated ferritin at 1305 mcg/l
baseline HCT = 29
CT scan from  ___ demonstrated atypical pericardial 
collection. 

DISCHARGE:

___ 06:30AM BLOOD WBC-2.0* RBC-1.88* Hgb-7.3* Hct-21.8* 
MCV-116* MCH-39.0* MCHC-33.5 RDW-15.5 Plt Ct-48*
___ 06:30AM BLOOD Neuts-31* Bands-0 Lymphs-65* Monos-2 
Eos-0 Baso-0 Atyps-1* Metas-1* Myelos-0
___ 06:30AM BLOOD ___ PTT-27.2 ___
___ 06:30AM BLOOD Glucose-91 UreaN-7 Creat-0.6 Na-142 K-4.2 
Cl-110* HCO3-22 AnGap-14
___ 06:30AM BLOOD ALT-81* AST-55* LD(LDH)-240 AlkPhos-44 
TotBili-0.5
___ 06:30AM BLOOD Albumin-4.0 Calcium-8.7 Phos-3.6 Mg-2.0

OTHER RELEVANT:

___ 05:55AM BLOOD WBC-2.4* RBC-2.01* Hgb-8.0* Hct-22.9* 
MCV-114* MCH-39.8* MCHC-34.9 RDW-15.4 Plt Ct-72*
___ 05:55AM BLOOD Neuts-32* Bands-0 Lymphs-62* Monos-4 
Eos-0 Baso-0 Atyps-1* Metas-1* Myelos-0
___ 05:55AM BLOOD Glucose-86 UreaN-6 Creat-0.7 Na-139 K-4.2 
Cl-105 HCO3-21* AnGap-17
___ 05:55AM BLOOD VitB12-513 Folate-15.2
___ 05:55AM BLOOD TSH-1.6
___ 09:57AM BLOOD Cyclspr-LESS THAN 30

___ 09:02PM URINE RBC-5* WBC-12* Bacteri-NONE Yeast-NONE 
Epi-<1
___ 09:02PM URINE UCG-NEGATIVE
URINE CULTURE (Final ___:    <10,000 organisms/ml. 

___ 4:29 am THROAT FOR STREP

                            **FINAL REPORT ___

   GRAM STAIN- R/O THRUSH (Final ___: 
      NEGATIVE FOR YEAST. 
      NO ___ ORGANISMS SEEN. 

   R/O Beta Strep Group A (Final ___: 
      NO BETA STREPTOCOCCUS GROUP A FOUND.

**FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

 
Brief Hospital Course:
The patient is a ___ year old female with aplastic anemia on 
cyclosporin who presents with sore throat, possible fever, and 
vaginal bleeding in the setting of stopping her OCPs and 
re-starting them 2 weeks prior to presentation.

ACTIVE ISSUES:
  
# Aplastic anemia: Acute on chronic pancytopenia on 
cyclosporine, previously treated with ATG. Current degree of 
anemia likely secondary to dysfunctional uterine bleeding in the 
setting of briefly stopping her OCPs and concurrent 
thrombocytopenia in the setting exacerbation of her aplastic 
anemia. Baseline counts from ___ reportedly WBC 6.3, 
Neutrophils 3500, Hgb 10.6, Plt 46. Given her sore throat, 
reported fever/chills, and exposures to others with similar 
symptoms, thought to be secondary to viral infection with 
subsequent bone marrow suppression. IgG EBV positive but without 
acute infection based on negative IgM. B12, folate, TSH normal. 
She was transfused 1 bag of platelets at an outside hospital 
with appropriate bump. She was not transfused any blood products 
while here given her stability and had resolution of her menses. 
Her home dose of cyclosporine was continued. She was discharged 
with specific plans to follow-up with her outpatient 
hematologist in ___ and to have labs drawn and faxed to 
Dr. ___.
 
# Febrile neutropenia: Given her report 2 days ago of chills 
with fever and decreased neutrophil count to 900 on admission, 
she was diagnosed with febrile neutropenia and subsequently 
started on cefepime. She remained afebrile and had complete 
resolution of her URI symptoms without any other clinical 
evidence of infection while in-house. Given her clinical 
stability and her insistence on leaving the hospital to go back 
to her providers in ___, the decision was made to 
discharge her on oral levofloxacin for a 7-day course so that 
she could follow-up with her regular doctors. All culture data 
remained negative.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CycloSPORINE (Sandimmune) 75 mg PO Q12H 
2. norethindrone acetate (bulk) *NF* 5 MG Miscellaneous daily 
Pt is on norethisterone 5 mg  
3. Exjade *NF* (deferasirox) 500 mg Oral bid 
She has not been compliant with this 
4. NexIUM *NF* (esomeprazole magnesium) 40 mg Oral daily 
5. Magnesium Oxide 800 mg PO DAILY 
6. OxycoDONE (Immediate Release)  5 mg PO BID:PRN pain 
Pt has not needed this.  
7. Maxalt *NF* (rizatriptan) 10 mg Oral Daily prn  headache 
She is not taking this anymore.  

 
Discharge Medications:
1. Magnesium Oxide 800 mg PO DAILY 
2. OxycoDONE (Immediate Release)  5 mg PO BID:PRN pain 
Pt has not needed this.  
3. CycloSPORINE (Sandimmune) 75 mg PO Q12H 
4. Exjade *NF* (deferasirox) 500 mg Oral bid 
She has not been compliant with this 
5. Maxalt *NF* (rizatriptan) 10 mg Oral Daily prn  headache 
She is not taking this anymore.  
6. NexIUM *NF* (esomeprazole magnesium) 40 mg ORAL DAILY 
7. norethindrone acetate (bulk) *NF* 5 MG Miscellaneous daily 
Pt is on norethisterone 5 mg  
8. norethindrone (contraceptive) *NF* 5 mg Oral BID 
9. Medication
Norethindrone 5mg   Take 1 tab TWICE daily
Dispense # 60 (SIXTY)   Dispense Form: Tablets
Refills: 0 (Zero)  Other: Please provide patient with 5mg tabs. 
ICD-9 626.8 Other disorders of menstruation and other abnormal 
bleeding from female genital tract
10. Outpatient Lab Work
Please draw blood for CBC with differential, AST and ALT on 
___. Please fax result to the attention of Dr ___ 
___ ___
11. FoLIC Acid 1 mg PO DAILY 
12. Levofloxacin 750mg po daily x 7 days.
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: acute on chronic aplastic anemia, most likely 
due to viral infection.

Febrile neutropenia
Vaginal bleeding

Secondary Diagnosis:
Aplastic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you during your hospitalization. 
As you recall, you were admitted to ___ from ___ 
on ___ after developing excessive vaginal bleeding. You have 
also recently been experiencing throat pain and chills with a 
fever. You underwent an evaluation which included blood tests 
that showed decreased blood counts and you were transfused 1 ___.
You were transfered to ___ on ___, for further 
evaluation. You were worked up for infection and placed on 
empiric antibiotics.
During the time of your admission here, the CBC has remained 
overall stable, although your platelet started to drop again 
today. Your CBC from ___ shows white blood cell count of 
___, platelet count is 48,000 and the hemoglobin is 7.3. 
Your symptoms improved with almost complete resolution of the 
vaginal bleeding, no fevers and improvement of the upper 
respiratory complaints.

You are now requesting to be discharged with the plan to fly 
back to ___ and see your doctors in follow up in the next 
few days. Considering you are clinically improved and your blood 
work is overall stable, we agree with your discharge. 
You should continue the empiric antibiotic and have a repeat CBC 
tomorrow morning.
 
Followup Instructions:
___